US07354932B2
Preparation of (1-cyclopropylmethyl-1H-benzoimidazol-2-yl)-methanol
To a solution of (bromomethyl)cyclopropane (0.39 mL, 4.02 mmol) and (1H-benzoimidazol-2-yl)-methanol (596 mg, 4.02 mmol) in DMF (10 mL) was added N,N-diisopropylethylamine (0.84 mL, 4.82 mmol). The reaction mixture was stirred at 60° C. for 3 days. Then it was cooled to room temperature and quenched with saturated NaHCO3 (15 mL) and the phases were separated. The aqueous phase was washed with CH2Cl2 (3×20 mL). Then the combined organic layers were washed with brine (2×30 mL), dried (MgSO4), filtered, concentrated, and dried in vacuo to afford a dark brown oil. Purification by flash column chromatography on silica gel using 2% CH3OH/CH2Cl2 afforded the product as a yellow solid (210 mg, 26%). 1H NMR (CDCl3) δ 0.40-0.45 (m, 2H), 0.52-0.61 (m, 2H), 1.22-1.33 (m, 1H), 4.13 (d, 2H, J=6.6 Hz), 4.88 (s, 2H), 7.22-7.24 (m, 2H), 7.36-7.38 (m, 1H), 7.66-7.69 (m, 1H).

reactant | (bromomethyl)cyclopropane | 4.02 mmol, 0.39 mL | BrCC1CC1 | C4H7Br
reactant | (1H-benzoimidazol-2-yl)-methanol | 4.02 mmol, 596 mg | N1C(=NC2=C1C=CC=C2)CO | C8H8N2O
reactant | N,N-diisopropylethylamine | 4.82 mmol, 0.84 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (1-cyclopropylmethyl-1H-benzoimidazol-2-yl)-methanol | 210 mg, 26% | C1(CC1)CN1C(=NC2=C1C=CC=C2)CO | C12H14N2O
